US08729530B2
Next, a mixed solution of 7.5 g of 1-(2-naphthyl)pyrene, 4.1 g of N-bromosuccinimide and 115 ml of dimethylformamide was heated with stirring under a nitrogen gas flow at 50° C. for 7.5 hours. After cooling the solution to room temperature, 100 ml of water was injected, followed by stirring at room temperature for 0.5 hours. The precipitated solid was collected by filtration, washed twice with 100 ml of water and then washed twice with 100 ml of methanol. The solid was washed three times with 50 ml of 1,2-dimethoxyethane and then vacuum-dried to obtain 2.0 g of 1-bromo-6-(2-naphthyl)pyrene.

reactant | 1-(2-naphthyl)pyrene | 7.5 g | C1=C(C=CC2=CC=CC=C12)C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C26H16
reactant | N-bromosuccinimide | 4.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | 115 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1-bromo-6-(2-naphthyl)pyrene | 2.0 g | BrC1=CC=C2C=CC3=C(C=CC4=CC=C1C2=C34)C3=CC4=CC=CC=C4C=C3 | C26H15Br
